US07429565B2
6-Allyloxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester
To a solution of 6-allyloxy-4-hydroxy-3-methyl-phthalic acid dimethyl ester (8.06 g, 28.8 mmol) [synthesized according to: J. W. Patterson, Tetrahedron, 1993, 49, 4789-4798] and pyridine (11.4 g, 144.0 mmol) in dichloromethane (DCM) (20 mL) at 0° C. was added triflic anhydride (12.19 g, 43.2 mmol). The reaction was stirred at 0° C. for 2 hrs after which additional triflic anhydride (3 mL) was added. Stirring at 0° C. was continued for an additional hour. The reaction mixture was poured into a mixture of DCM and HCl (1N). The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were dried over sodium sulfate. Filtration and evaporation of solvents in vacuo yielded a crude product, which was purified by silica gel chromatography to provide 8.39 g of the product as an oil. 1H NMR (300 MHz, CDCl3): δ=2.32 (s, 3H), 3.89 (s, 6H), 4.60 (m, 2H), 5.33 (d, J=9.3 Hz, 1H), 5.41 (d, J=18.6 Hz, 1H), 5.95 (m, 1H), 6.95 (s, 1H) ppm; 19F NMR (282 MHz, CDCl3): δ=−74 ppm.

reactant | 6-allyloxy-4-hydroxy-3-methyl-phthalic acid dimethyl ester | 28.8 mmol, 8.06 g | COC(C=1C(C(=O)OC)=C(C(=CC1OCC=C)O)C)=O | C14H16O6
reactant | pyridine | 144.0 mmol, 11.4 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 43.2 mmol, 12.19 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 3 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-Allyloxy-3-methyl-4-trifluoromethanesulfonyloxy-phthalic acid dimethyl ester | 8.39 g | COC(C=1C(C(=O)OC)=C(C(=CC1OCC=C)OS(=O)(=O)C(F)(F)F)C)=O | C15H15F3O8S
